US07417169B2
Methanesulfonyl chloride (0.086 mL) was added to an ice-cooled mixture of benzyl 4′-(2-hydroxyethoxy)biphenyl-4-carboxylate (0.30 g) and triethylamine (0.182 mL) in methylene chloride (20 mL) with stirring, and the mixture was stirred at room temperature for 1 hr. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford benzyl 4′-(2-methanesulfonyloxyethoxy)biphenyl-4-carboxylate (0.37 g).

reactant | Methanesulfonyl chloride | 0.086 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | benzyl 4′-(2-hydroxyethoxy)biphenyl-4-carboxylate | 0.30 g | OCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1 | C22H20O4
reactant | triethylamine | 0.182 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 4′-(2-methanesulfonyloxyethoxy)biphenyl-4-carboxylate | 0.37 g | CS(=O)(=O)OCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1 | C23H22O6S
